US04968800
To a solution of (3RS)-3-aminopiperidine (1.7 g) in water (1000 ml) is added platinum (II) potassium chloride (7.2 g) and the mixture is stirred at room temperature for 40 hours. The precipitated solid is removed by filtration, and the filtrate is concentrated under reduced pressure. To the residue is added a small amount of water, and the resulting crystals are separated by filtration and washed with water and acetone to give cis-dichloro-(3RS)-3-aminopiperidine platinum (II) (4.3 g) as pale yellow crystal.

reactant | (3RS)-3-aminopiperidine | 1.7 g | NC1CNCCC1 | C5H12N2
reactant | platinum (II) potassium chloride | 7.2 g | [Cl-].[K+].[Pt+2].[Cl-].[Cl-]
solvent | water | 1000 ml | O | H2O
product | cis-dichloro-(3RS)-3-aminopiperidine platinum (II) | 4.3 g | [Pt+2].Cl[C@@H]1N(CCC[C@@H]1N)Cl | InChI=1S/C5H10Cl2N2.Pt/c6-5-4(8)2-1-3-9(5)7;/h4-5H,1-3,8H2;/q;+2/t4-,5+;/m0./s1
